US06500863B1
N,N-Dimethyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide.
To a solution of N,N-dimethyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (140 mg, 0.50 mmol) in ethyl acetate, was added 10% Pd/C (50 mg). The mixture was flushed with hydrogen, then stirred under a hydrogen atmosphere at balloon pressure for 1.5 hours at room temperature. The mixture was filtered through celite and the celite was washed with methanol. The solvent was evaporated to give the desired product (100 mg, 80%). 1H NMR (DMSO-d6): δ 6.87 (d, 1H), 6.80 (d, 1H), 2.82 (s, 6H).

reactant | N,N-dimethyl-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 0.50 mmol, 140 mg | CN(S(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O)C | C8H9ClN2O5S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | N,N-Dimethyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 100 mg, 80% | CN(S(=O)(=O)C1=C(C(=CC=C1Cl)N)O)C | C8H11ClN2O3S
